US05981533
3-(4-Acetylamino-benzylamino)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine
A mixture of 0.34 g (1.04 mmol) of 3-(4-acetylamino-benzylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole, 0.189 g (1.15 mmol) of 3-chloro-aniline hydrochloride and 4 ml of methanol is heated under reflux for 20 hours. Cooling to approx. 20° C., filtering and washing the filter residue with diethyl ether yields the title compound; m.p. >260° C.; TLC-Rf =0.34 (toluene/isopropanol/conc. ammonia [70:29:1]).

reactant | 3-(4-acetylamino-benzylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole | 1.04 mmol, 0.34 g | C(C)(=O)NC1=CC=C(CNC2=NNC(=C2C#N)N=CN(C)C)C=C1 | C16H19N7O
reactant | 3-chloro-aniline hydrochloride | 1.15 mmol, 0.189 g | Cl.ClC=1C=C(N)C=CC1
solvent | methanol | 4 ml | CO | CH4O
product | 3-(4-Acetylamino-benzylamino)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine | C(C)(=O)NC1=CC=C(CNC2=NNC3=NC=NC(=C32)NC3=CC(=CC=C3)Cl)C=C1 | C20H18ClN7O
